US04256759
The starting material is prepared as follows: The mixture of 11.9 g of 1,3,5-trimethylpyrrole-2,4-dicarboxylic acid diethyl ester and 50 ml of concentrated sulfuric acid is heated on the steam cone for 1 hour. The resulting solution is poured on to ice, the precipitate collected and washed with water. It it taken up in aqueous sodium carbonate, the solution filtered and the filtrate acidified with 5 N hydrochloric acid. The precipitate formed is collected, washed with water, dried and recrystallized from ethanol, to yield the 1,3,5-trimethyl-2-carbethoxypyrrole-4-carboxylic acid melting at 197°-198° with decomposition.

reactant | 1,3,5-trimethylpyrrole-2,4-dicarboxylic acid diethyl ester | 11.9 g | C(C)OC(=O)C=1N(C(=C(C1C)C(=O)OCC)C)C | C13H19NO4
solvent | sulfuric acid | 50 ml | S(O)(O)(=O)=O | H2O4S
product | 1,3,5-trimethyl-2-carbethoxypyrrole-4-carboxylic acid | CN1C(=C(C(=C1C)C(=O)O)C)C(=O)OCC | C11H15NO4
